US06824890B2
Dioctoxy-1-styryl-4-(4′-vinylstyryl)benzene.
Solid NaH (300 mg, 12.4 mmol) was added in small portions into a suspension of 2,5-dioctoxy-4-(4′-vinylstyryl)benzaldehyde (1.27 g, 2.59 mmol) and benzyltriphenylphosphonium bromide (1.35 g, 3.11 mmol). The reaction mixture was stirred under nitrogen at room temperature for 24 hours. The reaction was quenched slowly with water, extracted with CH2Cl2, washed with brine, dried over MgSO4 and the solvent was evaporated under reduced pressure. The crude product was purified on a silica gel column (25-40% CHCl3/hexanes) to give a greasy yellow solid which is a mixture of cis and trans isomers. Yield 1.2 g (82%). 1H NMR (CDCl3): δ 7.51 (d, J=9.26 Hz, 2H), 7.47 (d, J=9.25 Hz, 1H), 7.42 (s, 2H), 7.29 (d, J=7.36 Hz, 2H), 7.25 (dd, J1=6.38 Hz, J2=7.36 Hz, 2H), 7.18 (t, J=7.34 Hz, 1H), 7.14 (s, 1H), 6.76 (d, J=11.97 Hz, 1H), 6.72 (dd, J1=17.72 Hz, J2=10.85 Hz, 1H), 6.34 (d, J=12.00 Hz, 1H), 5.78 (d, J=17.72 Hz, 1H), 5.25 (d, J=10.85 Hz, 1H), 4.02 (t, J=6.54 Hz, 2H), 3.55 (t, J=6.87 Hz, 2H), 1.78 (m, 4H), 1.64 (m, 4 H), 1.23-1.42 (m, 16H), 0.90 (m, 6H). 13C NMR (CDCl3): δ 151.34, 150.35, 137.89, 137.79, 136.81, 136.72, 130.24, 129.12, 128.49, 128.36, 127.14, 126.84, 126.73, 126.70, 125.62, 123.74, 114.81, 113.71, 110.37, 69.56, 69.16, 32.06, 29.61, 29.51, 26.33, 22.90, 14.35. FABMS: m/z 564 (M+).

reactant | NaH | 12.4 mmol, 300 mg | [H-].[Na+]
reactant | 2,5-dioctoxy-4-(4′-vinylstyryl)benzaldehyde | 2.59 mmol, 1.27 g | C(CCCCCCC)OC1=C(C=O)C=C(C(=C1)C=CC1=CC=C(C=C1)C=C)OCCCCCCCC | C33H46O3
reactant | benzyltriphenylphosphonium bromide | 3.11 mmol, 1.35 g | [Br-].C(C1=CC=CC=C1)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
product | Dioctoxy-1-styryl-4-(4′-vinylstyryl)benzene | C(CCCCCCC)OC=1C(=C(C=CC1C=CC1=CC=C(C=C1)C=C)C=CC1=CC=CC=C1)OCCCCCCCC | C40H52O2
